US05672760
Preparation of Compound 2: 4-[(2-Trimethylsiloxyethyl)ethylamino]iodobenzene.
A solution of 14.5 g, that is 50 mmole of 4-[(2-hydroxyethyl)ethylamino]iodobenzene and 6.0 g, that is 60 mmole triethylamine, from Aldrich Chemical Co. in 90 ml tetrahydrofuran ("THF") was stirred in an ice-water bath under nitrogen. Next, 5.5 g, 51 mmole chlorotrimethylsilane, from Aldrich Chemical Co. was added slowly while maintaining the reaction temperature below 10° C. The mixture was stirred for 30 minutes then warmed to room temperature for 1 hour. Ethyl ether was added and extracted with brine. The organic layer was separated and dried over anhydrous sodium sulfate. After removing the solvent under reduced pressure, the residue was flash column chromatographed on silica gel with 2% ethyl acetate-hexane to give 16.63 g of a clear viscous oil at a 92% yield.

reactant | 4-[(2-hydroxyethyl)ethylamino]iodobenzene | 50 mmole | OCCN(C1=CC=C(C=C1)I)CC | C10H14INO
reactant | triethylamine | 60 mmole | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 51 mmole, 5.5 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | Ethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 4-[(2-Trimethylsiloxyethyl)ethylamino]iodobenzene | 16.63 g, 92% yield | C[Si](OCCN(C1=CC=C(C=C1)I)CC)(C)C | C13H22INOSi
